US07893056B2
A mixture of (3R)-3-(cyclopentylmethyl)-1-[(phenylmethyl)oxy]-2-azetidinone (20 g, 77.1 mmol) and LiOH.H2O (32.4 g, 0.77 mol) in THF/water (500 mL/170 mL) was stirred at room temperature for 36 h. To the reaction mixture was added 6M HCl (130 mL), and then 1 N NaOH was added until a neutral pH was obtained. The layers were separated, and the aqueous layer was extracted once with EtOAc. The combined organics were dried (MgSO4) and concentrated to provide (2R)-3-cyclopentyl-2-({[(phenylmethyl)oxy]amino}methyl)propanoic acid (22.85 g, >100%) as a clear, colorless oil. LCMS: (M+H)+: 277.9.

reactant | (3R)-3-(cyclopentylmethyl)-1-[(phenylmethyl)oxy]-2-azetidinone | 77.1 mmol, 20 g | C1(CCCC1)C[C@H]1C(N(C1)OCC1=CC=CC=C1)=O | C16H21NO2
reactant | LiOH.H2O | 0.77 mol, 32.4 g | O[Li].O
reactant | HCl | 6M, 130 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | THF water | 500 mL | C1CCOC1.O
product | (2R)-3-cyclopentyl-2-({[(phenylmethyl)oxy]amino}methyl)propanoic acid | 22.85 g, >100% | C1(CCCC1)C[C@@H](C(=O)O)CNOCC1=CC=CC=C1 | C16H23NO3
